US06608077B2
b) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(2-chloro-pyridin-3-yl)urea
Under Ar, a solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (50 mg, 0.22 mmol) and 3-(azidocarbonyl)-2-chloropyridine (123 mg, 0.67 mmol) in 1 mL of N,N-dimethyl-formamide was stirred at room temperature for 3 days. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (15 mg, 18%). LC-MS (m/z) 377.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.22 mmol, 50 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 3-(azidocarbonyl)-2-chloropyridine | 0.67 mmol, 123 mg | N(=[N+]=[N-])C(=O)C=1C(=NC=CC1)Cl | C6H3ClN4O
reactant | N,N-dimethyl-formamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(2-chloro-pyridin-3-yl)urea | 15 mg, 18% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC=1C(=NC=CC1)Cl)O | C12H10Cl2N4O4S
